US08685969B2
3. 4-Bromo-1H-indole-7-carboxamide
A mixture of 4-bromo-1H-indole-7-carboxylic acid (10.04 g, 75% purity, 31.2 mmol), EDC (8.96 g, 46.7 mmol), and 1-hydroxybenzotriazole hydrate (7.16 g, 46.7 mmol) in THF (198 mL) and CH2Cl2 (247 mL) was stirred at room temperature for 1 h. The mixture was then bubbled with NH3 gas for 15 min and stirred at room temperature for 4 h. LCMS showed residual starting material, so aqueous ammonium hydroxide (4.85 mL, 125 mmol) was added and the mixture was stirred at room temperature overnight. After 20 h, the mixture was concentrated and partitioned between NaHCO3 (aq) and EtOAc. The organic phase was washed with brine, dried and concentrated. The residue was suspended in EtOAc and the solid was collected by filtration and air-dried to provide the desired product. The filtrates were subjected to column chromatography on silica gel (40 g), eluting with EtOAc-hexane (gradient from 20:80 to 50:50) to provide additional desired product for a total of 4.86 g (65% yield) over two steps. LCMS (M−H)−: 237.2, 239.2.

reactant | 4-bromo-1H-indole-7-carboxylic acid | 31.2 mmol, 10.04 g | BrC1=C2C=CNC2=C(C=C1)C(=O)O | C9H6BrNO2
reactant | EDC | 46.7 mmol, 8.96 g
reactant | 1-hydroxybenzotriazole hydrate | 46.7 mmol, 7.16 g | O.ON1N=NC2=C1C=CC=C2
reactant | ammonium hydroxide | 125 mmol, 4.85 mL | [OH-].[NH4+]
solvent | THF | 198 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 247 mL | C(Cl)Cl | CH2Cl2
product | 4-Bromo-1H-indole-7-carboxamide | 65% yield | BrC1=C2C=CNC2=C(C=C1)C(=O)N | C9H7BrN2O
